US04621901
A solution of 0.9 g of p-[trans-4-(4-pentenyl)cyclohexyl]acetophenone in 8 ml of ethanol and 8 ml of diethylene glycol was treated with 350 ml of hydrazine hydrate while gassing with argon and the solution was then heated to reflux (bath temperature 110° C.) while stirring for 1 hour. Subsequently, the mixture was treated with 421 mg of solid potassium hydroxide, the bath temperature was increased to 210° C. and the ethanol was distilled off. After 3 hours at 210° C. the reaction was interrupted and the mixture was partitioned three times in water/petroleum ether. The organic extracts were washed twice with water, dried over magnesium sulphate and evaporated. Chromatographic separation of the residue (0.85 g) on silica gel with ethyl acetate/petroleum ether (vol. 3:97) gave 0.76 g (90%) of 4-ethyl-1-[trans-4-(4-pentenyl)cyclohexyl]benzene as a colourless oil; m.p. (C--I) -10.6° C.

reactant | p-[trans-4-(4-pentenyl)cyclohexyl]acetophenone | 0.9 g | C(CCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(C)=O | C19H26O
reactant | hydrazine hydrate | 350 ml | O.NN
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | diethylene glycol | 8 ml | C(COCCO)O | C4H10O3
product | 4-ethyl-1-[trans-4-(4-pentenyl)cyclohexyl]benzene | 0.76 g, 90% | C(C)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCC=C | C19H28
